US04182881
A. 4-Chloro-N-[dichlorophosphinyl]benzamide
A suspension of 68 g, (0.44 mole) of 4-chlorobenzamide, 91 g (0.44 mole) of phosphorus pentachloride and 700 ml of AR carbon tetrachloride was heated at 65°-70° for 25 min. The solution was cooled to 20° and 20.7 g (0.44 mole) of 97% formic acid added dropwise. After the HCl gas evolution had nearly stopped, ca. 30 min., the precipitate was collected by filtration, washed with AR carbon tetrachloride and air-dried to give 103 g, m.p. 114.5°-115.5°.

reactant | 4-chlorobenzamide | 0.44 mole | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | phosphorus pentachloride | 0.44 mole, 91 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 0.44 mole, 20.7 g | C(=O)O | CH2O2
reactant | HCl | Cl | ClH
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-N-[dichlorophosphinyl]benzamide | ClC1=CC=C(C(=O)NP(=O)(Cl)Cl)C=C1 | C7H5Cl3NO2P
